US07001897B2
To a solution of 1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]-3-methanesulfonyloxyazetidine (1.56 g, 2.81 mmol) (obtained as described in Reference Example 74(2)) in dimethylformamide (80 ml) was added potassium thioacetate (1.92 g, 16.8 mmol) at room temperature and the mixture was stirred in an oil bath (80° C.) for 7.5 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1→1:1) as the eluant to afford 3-acetylthio-1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidine (863 mg, yield 57%) as a pale brown solid.

reactant | 1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]-3-methanesulfonyloxyazetidine | 2.81 mmol, 1.56 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C(=O)C=1N=C(OC1)N1CC(C1)OS(=O)(=O)C | C27H33N3O6SSi
reactant | potassium thioacetate | 16.8 mmol, 1.92 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-[4-(3-t-butyldiphenylsilyloxyazetidine-1-carbonyl)-1,3-oxazol-2-yl]azetidine | 863 mg, yield 57% | C(C)(=O)SC1CN(C1)C=1OC=C(N1)C(=O)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C28H33N3O4SSi
